US07951794B2
A solution of 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(4-phenyl-5-propyl-thiophen-2-yl)-propan-1-one (47 mg, 125 μmol) in isopropanol (2 mL) and 3 N aq. NaOH (0.5 mL) is treated with (S)-3-chloro-propane-1,2-diol (55 mg, 0.50 mmol) and the mixture is stirred at 70° C. for 14 h. Another portion of (S)-3-chloro-propane-1,2-diol (55 mg, 0.50 mmol) is added and stirring is continued at 70° C. for 24 h. The solvent is removed in vacuo and the residue is separated on prep. TLC plates with heptane:EA 2:1 to give 3-[4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-phenyl-5-propyl-thiophen-2-yl)-propan-1-one (15 mg) as a colourless resin; LC-MS: tR=1.05 min, [M+1]+=453.18.

reactant | 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(4-phenyl-5-propyl-thiophen-2-yl)-propan-1-one | 125 μmol, 47 mg | OC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)CCC)C | C24H26O2S
reactant | (S)-3-chloro-propane-1,2-diol | 0.50 mmol, 55 mg | ClC[C@H](CO)O | C3H7ClO2
reactant | (S)-3-chloro-propane-1,2-diol | 0.50 mmol, 55 mg | ClC[C@H](CO)O | C3H7ClO2
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | NaOH | 3 N, 0.5 mL | [OH-].[Na+]
product | 3-[4-((S)-2,3-dihydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-phenyl-5-propyl-thiophen-2-yl)-propan-1-one | 15 mg | O[C@H](COC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)CCC)C)CO | C27H32O4S
